US08877780B2
A stirred mixture of 6-ethoxy-pyridazine-3-carboxylic acid (0.34 g, 2.00 mmol) and CDI (0.36 g, 2.20 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 1 h, 5-Aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.68 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 1.5 h. The mixture was cooled to rt and water (40 mL) was added. After 1 h, the product was isolated by filtration, washed with water (10 mL) and dried in vacuo to give 6-ethoxy-pyridazine-3-carboxylic acid [2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.54 g, 60% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 9.24 min (99.01%); mp: 126-128° C.; 1H NMR (DMSO-d6) δ 1.41 (t, J=7.1 Hz, 3H, CH3), 1.88 (s, 3H, CHH), 1.97-2.13 (m, 1H, CHH), 2.52-2.62 (m, 2H, CHH, CHH), 2.61-2.78 (m, 1H, CHH), 4.58 (q, J=7.1 Hz, 2H, CH2), 4.65 (d, J=6.2 Hz, 2H, CH2), 7.35 (d, J=9.1 Hz, 1H, Ar), 7.81 (s, 3H, Ar), 8.08 (d, J=9.1 Hz, 1H, Ar), 9.84 (t, J=6.3 Hz, 1H, NH), 11.01 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.28, 21.00, 28.57, 29.09, 42.38, 58.75, 63.47, 117.91, 121.75, 123.16, 128.80, 129.65, 131.37, 133.53, 147.14, 149.10, 162.90, 165.86, 167.73, 167.88, 172.14, 172.19; LCMS: MH=452; Anal Calcd for C22H21N5O6+0.25H2O: C, 57.96; H, 4.75; N, 15.36. Found: C, 57.66; H, 4.61; N, 15.14.

reactant | 6-ethoxy-pyridazine-3-carboxylic acid | 2.00 mmol, 0.34 g | C(C)OC1=CC=C(N=N1)C(=O)O | C7H8N2O3
reactant | CDI | 2.20 mmol, 0.36 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-Aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 2.00 mmol, 0.68 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C)=O
reactant | water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-ethoxy-pyridazine-3-carboxylic acid [2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.54 g, 60% yield | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1=O)CNC(=O)C=1N=NC(=CC1)OCC)=O | C22H21N5O6
